US07598376B2
Preparation of 4,5-diacetyl-[1,4,5]-oxadiazepine
105.6 g of finely pulverised potassium hydroxide are introduced into a solution of 92.9 g of N,N′-diacetylhydrazine and 1410 g of dimethyl sulfoxide. When the heat of reaction has died away, 229.9 g of 2,2′-dichlorodiethyl ether are added and then 221.1 g of finely ground potassium carbonate are introduced. The reaction mixture is heated to 70° C. and maintained at 70 to 75° C. for 2 hours, then cooled to 20 to 25° C. and filtered, and the filtration residue is washed with dimethyl sulfoxide. Concentration of the combined filtrates by evaporation yields an oil, to which 157 g of isopropanol are added. After cooling to −10° C., filtration is carried out and the crystalline residue is washed with isopropanol. After drying of the residue, 99.4 g (65.1%) of 4,5-diacetyl-[1,4,5]-oxadiazepine are obtained in a purity of 97.6%.

reactant | potassium hydroxide | [OH-].[K+]
reactant | N,N′-diacetylhydrazine | 92.9 g | C(C)(=O)NNC(C)=O | C4H8N2O2
reactant | 2,2′-dichlorodiethyl ether | 229.9 g | C(CCl)OCCCl | C4H8Cl2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | isopropanol | 157 g | C(C)(C)O | C3H8O
solvent | dimethyl sulfoxide | 1410 g | CS(=O)C | C2H6OS
product | 4,5-diacetyl-[1,4,5]-oxadiazepine | C(C)(=O)N1C=COC=CN1C(C)=O | C8H10N2O3
